US05434281
Hydrolysis of the silylated ethers of the acid (15) was carried out under the conditions described by Kobayashi et al., J. Org. Chem., 1990, 55, 5324. A 1.1M solution of tetrabutylammonium fluoride (TBAF) in THF (650 μl, 0.7 mmol ) is added to the acid (15) (50 mg, 0.07 mmol) dissolved in THF (2 ml). After 24 hours at room temperature, dilution is carried out with ether and hydrolysis is carried out with a phosphate buffer (prepared from 7.38 g of Na2HPO4.12H2O and 2.04 g of citric acid in 200 ml of water). The organic phase is washed with a saturated NaCl solution, the solvents are evaporated and purification is carried out by chromatography on a preparative silica plate (prewashed with ethanol, eluent: methanol/ether: 2/98, deoxygenated) in order to obtain 16.7 mg (71%) of LTB4.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ether | CCOCC | C4H10O
reactant | phosphate | 200 ml, 7.38 g | P(=O)([O-])([O-])[O-]
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 0.7 mmol, 650 μl | C1CCOC1 | C4H8O
product | LTB4 | 16.7 mg, 71% | CCCCC/C=C\C[C@H](/C=C/C=C/C=C\[C@H](CCCC(=O)O)O)O | C20H32O4
